US07332508B2
4-[3-(1-Cyclopropylpiperidin-4-yl)[1,2,4]oxadiazol-5-yl]benzonitrile
The title compound was prepared by a similar procedure to that described in Example 35a, starting from 1-cyclopropyl-N-hydroxypiperidine-4-carboxamidine and 4-cyanobenzoyl chloride.

reactant | 1-cyclopropyl-N-hydroxypiperidine-4-carboxamidine | C1(CC1)N1CCC(CC1)C(=N)NO | C9H17N3O
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
product | 4-[3-(1-Cyclopropylpiperidin-4-yl)[1,2,4]oxadiazol-5-yl]benzonitrile | C1(CC1)N1CCC(CC1)C1=NOC(=N1)C1=CC=C(C#N)C=C1 | C17H18N4O
